US05234936
The preparation of 4-chloro-5,6,7,8-tetrahydro-2-methylquinazoline
To a mixture of 4.5 mL of phosphorus oxychloride and 20 drops of dimethylaniline in 50 mL of toluene was added 4.2 g of 5,6,7,8-tetrahydro-2-methyl-4-quinazolone. The resulting mixture was refluxed for 3 hours and then cooled to room temperature. The reaction mixture was poured into a ice cold aqueous potassium carbonate. After stirring for 5 minutes the mixture was added to diethyl ether/water. The organic layer was recovered washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated to yield a yellow oil. This oil was purified on silica to yield the desired compound as a light yellow solid (4.45 g, 95%): 1H NMR (DMSO-d6, 300 MHz) δ 2.78 (m, 2H), 2.64 (m, 2H), 2.50 (s, 3H), 1.78 (m, 4H).

reactant | phosphorus oxychloride | 4.5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5,6,7,8-tetrahydro-2-methyl-4-quinazolone | 4.2 g | CC1=NC=2CCCCC2C(N1)=O | C9H12N2O
reactant | diethyl ether water | C(C)OCC.O
catalyst | dimethylaniline | 20 drops | CN(C1=CC=CC=C1)C | C8H11N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-5,6,7,8-tetrahydro-2-methylquinazoline | 4.45 g, 95% | ClC1=NC(=NC=2CCCCC12)C | C9H11ClN2
